US20010041170A1
1.3.13.23 N-Trityl-bis(2-p-toluenesulfonyloxyethyl)amine
From N-trityldiethanolamine and p-toluenesulfonyl chloride.

reactant | N-trityldiethanolamine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N(CCO)CCO | C23H25NO2
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | N-Trityl-bis(2-p-toluenesulfonyloxyethyl)amine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N(CCOS(=O)(=O)C1=CC=C(C=C1)C)CCOS(=O)(=O)C1=CC=C(C=C1)C | C37H37NO6S2
